data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_552338_0,[C:1](\[C:2]([H:15])([H:16])[H:17])([C:6]([C:3]([H:18])([H:19])[H:20])([C:5]([O:9][H:11])=[O:10])[C:8]([C:4]([H:21])([H:22])[H:23])([H:12])[H:14])=[N:7]\[H:13]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:5]([O:9][H:11])=[O:10])(/[C:6]([C:3]([H:18])([H:19])[H:20])=[C:8](/[C:4]([H:21])([H:22])[H:23])[H:14])[N:7]([H:12])[H:13],71.99934999995392
MR_589917_0,[C:1]([C:2](/[C:6]([C:4]([H:21])([H:22])[H:23])=[C:8](/[O:9][H:11])[H:15])([H:16])[H:17])([C:5]([C:3]([H:18])([H:19])[H:20])=[O:10])([N:7]([H:13])[H:14])[H:12]>>[C:1]1([N:7]([H:13])[H:14])([H:12])[C:2]([H:16])([H:17])[C:6]1([C:4]([H:21])([H:22])[H:23])[C:8]([C:5]([C:3]([H:18])([H:19])[H:20])=[O:10])([O:9][H:11])[H:15],72.81321749996792
MR_480860_0,[C@:1]([C@@:2]([N:3]([H:12])[H:13])([C:5](=[O:8])[H:15])[H:11])([C:4](=[O:7])[H:14])([O:6][H:9])[H:10]>>[C@@:1]([C@:2]([N:3]([H:12])[H:13])([C:4](=[O:7])[H:14])[H:11])([C:5](=[O:8])[H:15])([O:6][H:9])[H:10],49.84985500001798
MR_582585_2,[C:1]1([C:3]([H:10])([H:11])[H:12])=[N:6][C:5]2([H:9])[C:2]([H:7])([H:8])[N:4]12>>[C:1]12([C:3]([H:10])([H:11])[H:12])[C:2]([H:7])([H:8])[N:4]1[C:5]([H:9])=[N:6]2,39.140940000018105
MR_31163_0,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4](=[N:3]/[N:5]([H:7])[H:8])[O:6][H:9])([H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([N:3]([N:5]([H:8])[H:9])[H:7])=[O:6])([H:10])[H:11],41.72372999998899
MR_406319_1,[C:1]1([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[C@@:5]([C:6](=[C:8]([H:20])[H:21])[H:12])([H:11])[C@:7]1([N:4]([H:9])[H:10])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:5](=[C:7](\[N:4]([H:9])[H:10])[H:13])[H:11])[C:6](=[C:8]([H:20])[H:21])[H:12],65.51915749997832
MR_24401_0,[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:6]([C:4]([H:16])([H:17])[H:18])=[C:7]([H:10])[N:5]1[C:3]([H:13])([H:14])[H:15]>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:6]1([C:4]([H:16])([H:17])[H:18])/[C:7](=[N:5]/[C:3]([H:13])([H:14])[H:15])[H:10],65.91636500000988
MR_591685_0,[C:1]([N:2]([O:6][H:8])[H:9])([N:3]([H:11])[H:12])(/[N:7]=[C:5](\[N:4]([H:13])[H:14])[H:15])[H:10]>>[C:1](\[N:3]([H:11])[H:12])(=[N:7]/[C:5]([N:2]([O:6][H:8])[H:9])([N:4]([H:13])[H:14])[H:15])[H:10],52.22996249996555
MR_229778_1,[C:1]1([H:9])([H:10])[C:5]([C:4]([H:17])([H:18])[H:19])([N:8]=[C:3]([H:14])[H:16])[N:6]1[N:7]([C:2]([H:11])([H:12])[H:13])[H:15]>>[C:1](/[C:5]([C:4]([H:17])([H:18])[H:19])=[N:8]\[C:3]([H:14])([H:15])[H:16])(/[N:6]=[N:7]/[C:2]([H:11])([H:12])[H:13])([H:9])[H:10],16.304332499997827
MR_76806_0,[C:1](/[N:8]=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:7]=[C:3]([N:5]([H:11])[H:12])[N:6]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[C:3]([N:5]([H:11])[H:12])([N:6]([H:9])[H:10])[N:7]=[C:4]1[C:2]([H:16])([H:17])[H:18])([H:13])([H:14])[H:15],37.86272249999939
MR_293334_1,[C:1]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])(/[C:5](=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:14])[H:13])[O:7][H:8]>>[C:1]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])=[C:5]([C@:6]([C:2]([H:15])([H:16])[H:17])([O:7][H:8])[H:14])[H:13],45.61360250001272
MR_231715_2,[C:1](=[C:6](/[C:5]([C:3]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([N:4]([H:11])[H:12])[H:13])[H:14])(\[O:8][H:9])[H:10]>>[C:1]([N:4]([H:11])[H:12])(/[C:6](=[C:5](/[C:3]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])[H:13])[H:14])([O:8][H:9])[H:10],56.549044999975706
MR_181740_2,[N:1](/[C:2]([N:4]([H:11])[H:12])=[N:6]/[N:3]([H:9])[H:10])([O:5][H:7])[H:8]>>[N:1](=[C:2](\[N:4]([H:11])[H:12])[N:6]([N:3]([H:9])[H:10])[H:8])\[O:5][H:7],36.73698749998806
MR_104661_1,[C:1]([N:3]([H:10])[H:11])(=[N:6]\[N:2]([H:8])[H:9])/[N:7]=[C:5](\[N:4]([H:12])[H:13])[H:14]>>[C:1]1([N:3]([H:10])[H:11])=[N:7][C:5]([N:4]([H:12])[H:13])([H:14])[N:6]1[N:2]([H:8])[H:9],35.17702249996731
MR_394697_0,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[O:5][H:9])([C:4](=[O:8])[H:12])([O:6][H:10])[O:7][H:11]>>[C:1]([C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[O:5][H:9])([O:8][H:10])[H:12])(=[O:6])[O:7][H:11],33.36605749997389
MR_549049_0,[C:1]([C:3]([O:6][H:9])[N:7][N:5]([H:10])[H:11])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:12])([H:13])[H:14]>>[C:1](=[C:3]([O:6][H:9])[N:7](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:12])[N:5]([H:10])[H:11])([H:13])[H:14],63.31223999998585
MR_574664_1,[C:1]([N:5]([C:2]([H:11])([H:14])[H:15])[N:4]([C:6]([C:3]([H:16])([H:17])[H:18])=[O:8])[O:7][H:9])([H:10])([H:12])[H:13]>>[C:1]([N:5]([C:2]([H:11])([H:14])[H:15])[C@:6]1([C:3]([H:16])([H:17])[H:18])[N:4]([O:7][H:9])[O:8]1)([H:10])([H:12])[H:13],61.296082499975455
MR_54416_0,[C:1]([N:5]([N:3]([N:4]([C:6]([C:2]([H:14])([H:15])[H:16])=[O:7])[H:9])[H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:5]([N:4]([N:3]([C:6]([C:2]([H:14])([H:15])[H:16])=[O:7])[H:8])[H:9])[H:10])([H:11])([H:12])[H:13],59.75619749997534
MR_463111_1,[C:1]([C:2]([C:4](=[C:5]([H:15])[H:16])[H:14])=[O:9])(/[C:3](=[N:8]\[H:12])[H:13])([O:6][H:10])[O:7][H:11]>>[C:1]([C:2](/[C:3](=[N:8]\[H:12])[H:13])([C:4](=[C:5]([H:15])[H:16])[H:14])[O:9][H:11])([O:6][H:10])=[O:7],33.465829999971675
